US04461895
5.7 g. (18.07 mmol) (-)-7-Hydroxy-1-(3-hydroxy-4-methoxybenzyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline and 3.7 g. (44 mmol) sodium bicarbonate in 120 ml. ethanol are mixed with 1.76 ml. (1.64 g., 18,07 mmol) 3-chloro-2-methylprop-1-ene. The mixture is allowed to react for 30 minutes at ambient temperature and thereafter for 3 hours at 80° C., while stirring. The usual working up and chromatographic purification on silica gel with chloroform as elution agent gives (+)-7-hydroxy-1-(3-hydroxy-4-methoxybenzyl)-6-methoxy-2-(2-methylprop-2-enyl)-1,2,3,4-tetrahydroisoquinoline in the form of a TLC-uniform yellowish foam.

reactant | (-)-7-Hydroxy-1-(3-hydroxy-4-methoxybenzyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 18.07 mmol | OC1=C(C=C2CCNC(C2=C1)CC1=CC(=C(C=C1)OC)O)OC | C18H21NO4
reactant | sodium bicarbonate | 44 mmol | C([O-])(O)=O.[Na+]
reactant | 3-chloro-2-methylprop-1-ene | 18,07 mmol, 1.64 g | ClCC(=C)C | C4H7Cl
solvent | ethanol | C(C)O | C2H6O
product | (+)-7-hydroxy-1-(3-hydroxy-4-methoxybenzyl)-6-methoxy-2-(2-methylprop-2-enyl)-1,2,3,4-tetrahydroisoquinoline | OC1=C(C=C2CCN(C(C2=C1)CC1=CC(=C(C=C1)OC)O)CC(=C)C)OC | C22H27NO4
